US04025555
Ethyl-m-[N,N-di(n-hexadecyl)aminomethyl]-thiobenzimidate Dihydrochloride
A mixture of α-[N,N-di(n-hexadecyl)amino]-m-toluonitrile (23.2 g., 0.04 mole), ethanthiol (6.0 ml., 0.08 mole) and chloroform (100 ml.) was saturated with dry hydrogen chloride for 30 minutes at 20°-25° C. It was then stoppered and held for six days at 5° C. The mixture was evaporated in vacuo to a foam which was crystallized by trituration with 1,2-dimethoxyethane. The crude product was recrystallized from hot 1,2-dimethoxyethane/chloroform [24.9 g., 88% yield, Rf 0.79 (4:1, benzene:ethanol on silicic acid), m.p. 109°-111° C⟧

reactant | α-[N,N-di(n-hexadecyl)amino]-m-toluonitrile | 0.04 mole, 23.2 g | C(CCCCCCCCCCCCCCC)N(CCCCCCCCCCCCCCCC)CC1=CC(=CC=C1)C#N | C40H72N2
reactant | ethanthiol | 0.08 mole, 6.0 ml | C(C)S | C2H6S
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl-m-[N,N-di(n-hexadecyl)aminomethyl]-thiobenzimidate Dihydrochloride | 88% yield | Cl.Cl.C(C)SC(C1=CC(=CC=C1)CN(CCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCC)=N | InChI=1S/C42H78N2S.2ClH/c1-4-7-9-11-13-15-17-19-21-23-25-27-29-31-36-44(39-40-34-33-35-41(38-40)42(43)45-6-3)37-32-30-28-26-24-22-20-18-16-14-12-10-8-5-2;;/h33-35,38,43H,4-32,36-37,39H2,1-3H3;2*1H
